US06455587B1
Preparation of Nα-Isobutyl-Nα-(4-nitrobenzenesulfonyl)-Nε-dihydrocinnamoyl-L-lysine (Compound No. 94)
Nα-isobutyl-Nα-(4-nitrobenzenesulfonyl)-L-lysine was reacted with dihydrocinnamic acid under the conditions described in example 86 to yield 81% of the desired product.

reactant | Nα-isobutyl-Nα-(4-nitrobenzenesulfonyl)-L-lysine | C(C(C)C)N([C@@H](CCCCN)C(=O)O)S(=O)(=O)C1=CC=C(C=C1)[N+](=O)[O-] | C16H25N3O6S
reactant | dihydrocinnamic acid | C(CCC1=CC=CC=C1)(=O)O | C9H10O2
product | Nα-Isobutyl-Nα-(4-nitrobenzenesulfonyl)-Nε-dihydrocinnamoyl-L-lysine | 81% | C(C(C)C)N([C@@H](CCCCNC(CCC1=CC=CC=C1)=O)C(=O)O)S(=O)(=O)C1=CC=C(C=C1)[N+](=O)[O-] | C25H33N3O7S
